US09328067B2
Methyl 2-({[4-chloro-2-({[4-chloro-3-(trifluoromethyl)phenyl]sulfonyl}amino)phenyl]sulfanyl}methyl)benzoate
Following General Procedure B, the title compound (936 mg, 37%) was prepared from methyl 2-(((2-amino-4-chlorophenyl)thio)methyl)benzoate (1.41 g, 4.56 mmol) and 4-chloro-3-(trifluoromethyl)benzene-1-sulfonyl chloride (1.3 g, 4.56 mmol) in pyridine (10 ml).

reactant | methyl 2-(((2-amino-4-chlorophenyl)thio)methyl)benzoate | 4.56 mmol, 1.41 g | NC1=C(C=CC(=C1)Cl)SCC1=C(C(=O)OC)C=CC=C1 | C15H14ClNO2S
reactant | 4-chloro-3-(trifluoromethyl)benzene-1-sulfonyl chloride | 4.56 mmol, 1.3 g | ClC1=C(C=C(C=C1)S(=O)(=O)Cl)C(F)(F)F | C7H3Cl2F3O2S
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | Methyl 2-({[4-chloro-2-({[4-chloro-3-(trifluoromethyl)phenyl]sulfonyl}amino)phenyl]sulfanyl}methyl)benzoate | 936 mg, 37% | ClC1=CC(=C(C=C1)SCC1=C(C(=O)OC)C=CC=C1)NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C22H16Cl2F3NO4S2
